US06653330B2
N-(4-Cyano-1-naphthyl)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzamide (Exemplification Compound Number 38-1)
In the same manner as that described in Example 3(4), a reaction was carried out using commercially available 4-amino-1-naphthalenecarbonitrile (200 mg, 1.2 mmol), trimethylaluminium (1.1 ml, 1.07M n-hexane solution, 1.2 mmol) and methyl 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzoate (150 mg, 0.30 mmol), obtained in Example 12(1), and the reaction mixture was treated using a similar procedure to that described in Example 3(4) to afford the title compound (73 mg, yield 38%) as a pale yellow oil which was recrystallized from ethyl acetate-hexane to give white powdery crystals.

reactant | 4-amino-1-naphthalenecarbonitrile | 1.2 mmol, 200 mg | NC1=CC=C(C2=CC=CC=C12)C#N | C11H8N2
reactant | trimethylaluminium | 1.2 mmol, 1.07M, 1.1 ml | C[Al](C)C
reactant | methyl 4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzoate | 0.30 mmol, 150 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)OC)C=C1)(CN1N=CN=C1)O | C24H25F2N3O5S
product | N-(4-Cyano-1-naphthyl)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]benzamide | 73 mg, yield 38% | C(#N)C1=CC=C(C2=CC=CC=C12)NC(C1=CC=C(C=C1)[C@@H]1OC[C@H](CO1)S[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C)=O | C34H29F2N5O4S
